US08431569B2
Step 4. 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-ethynyl-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred solution of 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-[(trimethylsilyl)ethynyl]-5H-pyrido[4,3-b]indole-4-carboxamide (0.15 g, 0.33 mmol) in MeOH (3.3 mL) was added potassium carbonate (0.055 g, 0.40 mmol). The reaction mixture was left to stir at room temperature for 16 h, diluted with EtOAc, washed with water and brine, dried (sodium sulfate), and concentrated to give the title compound. LRMS (APCI) calc'd for (C19H15F3N4O) [M+H]+, 373.1. found 373.1.

reactant | 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-[(trimethylsilyl)ethynyl]-5H-pyrido[4,3-b]indole-4-carboxamide | 0.33 mmol, 0.15 g | C1(CC1)[C@H](C(F)(F)F)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C#C[Si](C)(C)C)C(=O)N | C22H23F3N4OSi
reactant | potassium carbonate | 0.40 mmol, 0.055 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 3.3 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-ethynyl-5H-pyrido[4,3-b]indole-4-carboxamide | C1(CC1)[C@H](C(F)(F)F)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C#C)C(=O)N | C19H15F3N4O
